US07981903B2
A solution of 2-[3-(dimethylamino)propanoyl]-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine (335 mg, 1.21 mmol) in tetrahydrofuran (10 mL) was treated with lithium aluminum hydride (10 mL, 1 M in diethyl ether, 10 mmol, Aldrich). The mixture was refluxed for 16 h, cooled, quenched carefully via sequential addition of water (0.4 mL), 15% aqueous sodium hydroxide (0.4 mL), and then water (1.2 mL) again. The mixture was stirred vigorously for 1 h and then filtered through a pad of celite. The filtrate was concentrated to provide 2-[3-(dimethylamino)propyl]-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine (284 mg, 1.08 mmol, 90%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.55-1.65 (m, J=7.2, 7.2, 7.2, 7.2 Hz, 2 H), 2.11 (s, 6 H), 2.19-2.24 (m, 2 H), 2.36-2.41 (m, 2 H), 2.54 (t, J=6.0 Hz, 2 H), 2.63 (t, J=5.4 Hz, 2 H), 3.34-3.41 (m, 2 H), 3.70 (s, 3 H), 4.44 (s, 2 H), 6.28 (s, 1 H), 6.48 (s, 1 H); ESIMS (M+H)+=264.

reactant | 2-[3-(dimethylamino)propanoyl]-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine | 1.21 mmol, 335 mg | CN(CCC(=O)N1CC2=CC(=C(C=C2CC1)OC)N)C | C15H23N3O2
reactant | lithium aluminum hydride | 10 mmol, 1 M, 10 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[3-(dimethylamino)propyl]-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine | 1.08 mmol, 284 mg, 90% | CN(CCCN1CC2=CC(=C(C=C2CC1)OC)N)C | C15H25N3O
